US04623477
Preparation of 5-hexylpyrimidin-2-yl p-(trans-4-hexylcyclohexylcarbonyloxy)-benzoate
A solution of p-(trans-4-hexylcyclohexylcarbonyloxy)-benzoyl chloride (3.9 g) dissolved in toluene was added to a solution of 5-hexylpyrimidin-2-ol (1.0 g) in pyridine (10 ml), followed by stirring at 60° C. for 2 hours, allowing the mixture to stand at room temperature overnight, adding water and toluene to the reaction mixture, separating the toluene layer containing the reaction product, washing the toluene solution twice with 6NHCl (30 ml), washing with water, washing 5 times with 2N NaOH (100 ml), finally washing with water till the washing water became neutral, drying the resulting toluene solution, distilling off low boiling mixture of solvent, etc. under reduced pressure, and recrystallizing crystals obtained from the residue from n-heptanol solvent to obtain the objective compound (2.0 g) (yield 73%), which had a C-N point of 53.3° C. and a N-I point of 125.3° C.

reactant | p-(trans-4-hexylcyclohexylcarbonyloxy)-benzoyl chloride | 3.9 g | C(CCCCC)[C@@H]1CC[C@H](CC1)C(=O)OC1=CC=C(C(=O)Cl)C=C1 | C20H27ClO3
reactant | 5-hexylpyrimidin-2-ol | 1.0 g | C(CCCCC)C=1C=NC(=NC1)O | C10H16N2O
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-hexylpyrimidin-2-yl p-(trans-4-hexylcyclohexylcarbonyloxy)-benzoate | 2.0 g, yield 73% | C(CCCCC)[C@@H]1CC[C@H](CC1)C(=O)OC1=CC=C(C(=O)OC2=NC=C(C=N2)CCCCCC)C=C1 | C30H42N2O4
